US06133258
A mixture of 1.104 g (3.77 mmol) of 1-(2-chloronicotinoyl)-3-(3-pyridyl)thiourea and 10 ml of DMF was heated over a 140° C. oil bath. The mixture was stirred for 1 hour. The reaction mixture was allowed to cool, and then diluted with THF. The resulting crystal was collected by filtration, washed with THF, and then dried under reduced pressure to obtain to obtain 759 mg of 2-(3-pyridylamino)-4H-pyrido[3,2-e]-1,3-thiazin-4-one hydrochloride.

reactant | 1-(2-chloronicotinoyl)-3-(3-pyridyl)thiourea | 3.77 mmol, 1.104 g | ClC1=C(C(=O)NC(=S)NC=2C=NC=CC2)C=CC=N1 | C12H9ClN4OS
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
product | 2-(3-pyridylamino)-4H-pyrido[3,2-e]-1,3-thiazin-4-one hydrochloride | 759 mg | Cl.N1=CC(=CC=C1)NC=1SC2=C(C(N1)=O)C=CC=N2 | InChI=1S/C12H8N4OS.ClH/c17-10-9-4-2-6-14-11(9)18-12(16-10)15-8-3-1-5-13-7-8;/h1-7H,(H,15,16,17);1H
